US08003796B2
Preparation of tert-butyl 4-(5-chloro-1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate
Example 226 was prepared according to the procedures described in Example 221 substituting tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate for 1-(5-cyclopropylpyrimidin-2-yl)piperidin-4-yl methanesulfonate, 2-(5-chloro-4-hydroxy-2-oxopyridin-1(2H)-yl)-5-(methylsulfonyl)benzene-1-ylium for 4-hydroxy-1-(4-(methylsulfonyl)phenyl)-6-oxo-1,6-dihydropyridine-3-carbonitrile in Step B. 1H NMR (500 MHz, CDCl3) δ ppm 8.07 (d, J=8.25 Hz, 2H), 7.61 (d, J=8.80 Hz, 2H), 7.42 (s, 1H), 6.03 (s, 1H), 4.52-4.68 (m, 1H), 3.57-3.73 (m, 2H), 3.40-3.56 (m, 2H), 3.08 (s, 3H), 1.76-2.02 (m, 4H), 1.46 (s, 9H). MS (ESI) 482 (M+H).

reactant | tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
reactant | 1-(5-cyclopropylpyrimidin-2-yl)piperidin-4-yl methanesulfonate | CS(=O)(=O)OC1CCN(CC1)C1=NC=C(C=N1)C1CC1 | C13H19N3O3S
reactant | 2-(5-chloro-4-hydroxy-2-oxopyridin-1(2H)-yl)-5-(methylsulfonyl)benzene-1-ylium | ClC=1C(=CC(N(C1)C1=[C+]C=C(C=C1)S(=O)(=O)C)=O)O
reactant | 4-hydroxy-1-(4-(methylsulfonyl)phenyl)-6-oxo-1,6-dihydropyridine-3-carbonitrile | OC=1C(=CN(C(C1)=O)C1=CC=C(C=C1)S(=O)(=O)C)C#N | C13H10N2O4S
product | tert-butyl 4-(5-chloro-1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | ClC=1C(=CC(N(C1)C1=CC=C(C=C1)S(=O)(=O)C)=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C22H27ClN2O6S
